US08461175B2
A round-bottomed flask equipped with a septum having a top-mounted argon intake is charged with 95 mg of 5-(2,6-difluorophenyl)-7-fluoro-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}1-([2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline in 10 ml of DCM. After cooling to 0° C. using an ice bath, 0.173 ml of TFA are added and the mixture is stirred at RT for 20 h. It is concentrated under RP and the solid obtained is taken up in 30 ml of water and 2 ml of 0.75M aqueous ammonia solution. The product is extracted with AcOEt, dried over MgSO4, filtered and concentrated under RP. It is purified by flash chromatography on silica gel (15-40 μm), eluting with a mixture of DCM and methanol (95/05 by vol.), to give 6 mg of 5-(2,6-difluorophenyl)-7-fluoro-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline (yellow solid). MS (E/I): m/z=475 (M+); 1H NMR: 1.67 (m, 2 H) 2.10 (m, 2 H) 2.87 (s, 3 H) 2.90 (m, 2 H) 3.56 (m, 2 H) 3.79 (m, 1H) 6.08 (d, J=8.3 Hz, 1 H) 7.29 (m, 1 H) 7.33 (t, J=7.8 Hz, 2 H) 7.68 (m, 1 H) 7.88 (broad t, J=9.3 Hz, 1 H) 8.50 (dd, J=9.3, 5.4 Hz, 1 H) 12.80 (s, 1 H)*.

reactant | 5-(2,6-difluorophenyl)-7-fluoro-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}1-([2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazolo[4,3-c]isoquinoline | 95 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)F)N(N=C2NC2CCN(CC2)S(=O)(=O)C)COCC[Si](C)(C)C | C28H34F3N5O3SSi
reactant | TFA | 0.173 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 30 ml | O | H2O
solvent | ammonia | 0.75M, 2 ml | N | H3N
product | 5-(2,6-difluorophenyl)-7-fluoro-3-{[1-(methylsulphonyl)piperidin-4-yl]amino}-1H-pyrazolo[4,3-c]isoquinoline | 6 mg | FC1=C(C(=CC=C1)F)C1=NC2=C(C=3C=CC(=CC13)F)NN=C2NC2CCN(CC2)S(=O)(=O)C | C22H20F3N5O2S
